US07262182B2
Sodium hydroxide, 6.4 g (161 mmol), was dissolved in 100 mL methanol under nitrogen at room temperature, and α-toluenethiol, 9.52 mL (10 g, 80.5 mmol), was added. After the resulting mixture was stirred for 5 minutes, 2-(4-bromobenzenesulfonyloxy)ethyl tetrakis(2-chloroethyl)phosphorodiamidate, 80.5 mL of 1 M solution in toluene (80.5 mmol), was added with stirring. A precipitate formed within 1 minute of the addition, and stirring was continued. Analysis of the reaction after 2 hours showed that the reaction was nearly complete, and stirring was continued overnight at room temperature. Analysis then showed that the reaction was complete, and stirring was stopped and the reaction mixture allowed to stand and then filtered to remove the precipitated sodium 4-bromobenzenesulfonate. The methanol was removed from the filtrate by evaporation and the residue was dissolved in 250 mL isopropyl acetate. The isopropyl acetate solution was washed with aqueous sodium hydroxide (100 mL of 1 M), water (100 mL), and brine (100 mL), and was then dried over anhydrous sodium sulfate and filtered. The isopropyl acetate was removed by vacuum evaporation to give an oil, which was dried under vacuum at 40° C. overnight, giving 40.4 g of α-[[2-[[bis[bis(2-chloroethyl)amino]phosphinyl]oxy]ethyl]thio]toluene as an orange oil containing residual toluene. HPLC analysis of the product showed a purity of 96.8%. 1H NMR:

reactant | Sodium hydroxide | [OH-].[Na+]
reactant | α-toluenethiol | C1(=CC=CC=C1)CS | C7H8S
reactant | 2-(4-bromobenzenesulfonyloxy)ethyl tetrakis(2-chloroethyl)phosphorodiamidate | ClCCN(P(OCCOS(=O)(=O)C1=CC=C(C=C1)Br)(=O)N(CCCl)CCCl)CCCl | C16H24BrCl4N2O5PS
reactant | toluene | 80.5 mmol | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 100 mL | CO | CH4O
product | α-[[2-[[bis[bis(2-chloroethyl)amino]phosphinyl]oxy]ethyl]thio]toluene | 40.4 g | ClCCN(CCCl)P(=O)(OCCSCC1=CC=CC=C1)N(CCCl)CCCl | C17H27Cl4N2O2PS
